US06395733B1
(3-Chloro-phenyl)-(1H-[1,2,3]triazolo[4,5-d]pyrimidin-7-yl)-amine Hydrochloride
To 3-chloroaniline (0.39 ml, 3.6 mmol) in dry dimethylcyclohexylamine (0.55 ml, 3.6 mmol) was added phosphorus pentoxide (0.52 g, 3.6 mmol). After heating in a 170° C. oil bath for 0.5 hours, 8-azahypoxanthine (0.50 g, 3.6 mmol) was added and stirring continued at 170° C. for 23 hours. The mixture was cooled to ambient temperature and 2M NaOH was added until basic. The solids were filtered off and washed consecutively with H2O, CH2Cl2 and methanol. The resulting solid was dried in vacuo to afford the title compound as a tan powder (0.26 g. 29%). LC-MS: 247 (MH+); anal. RP18-HPLC RT: 3.76 min.

reactant | 3-chloroaniline | 3.6 mmol, 0.39 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | dimethylcyclohexylamine | 3.6 mmol, 0.55 ml | CN(C1CCCCC1)C | C8H17N
reactant | phosphorus pentoxide | 3.6 mmol, 0.52 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 8-azahypoxanthine | 3.6 mmol, 0.50 g | N1C=NC=2N=NNC2C1=O | C4H3N5O
reactant | NaOH | 2M | [OH-].[Na+]
product | (3-Chloro-phenyl)-(1H-[1,2,3]triazolo[4,5-d]pyrimidin-7-yl)-amine Hydrochloride | 0.26 g, 29% | Cl.ClC=1C=C(C=CC1)NC=1C2=C(N=CN1)N=NN2 | InChI=1S/C10H7ClN6.ClH/c11-6-2-1-3-7(4-6)14-9-8-10(13-5-12-9)16-17-15-8;/h1-5H,(H2,12,13,14,15,16,17);1H
